US04128425
A solution of benzenediazonium chloride was prepared as follows: To an ice cold (about 5° C.) solution of aniline hydrochloride (3.24 g., 25 mmoles) in water (10 ml.) and concentrated hydrochloric acid (2.1 ml., 25 mmoles) was added dropwise with stirring a solution of sodium nitrite (1.9 g., 27.5 mmoles) in water (10 ml.). After addition the solution was stirred in the cold for an additional 15 minutes.

reactant | aniline hydrochloride | 25 mmoles, 3.24 g | Cl.NC1=CC=CC=C1
reactant | hydrochloric acid | 25 mmoles, 2.1 ml | Cl | ClH
reactant | sodium nitrite | 27.5 mmoles, 1.9 g | N(=O)[O-].[Na+]
solvent | water | 10 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | benzenediazonium chloride | [Cl-].C1(=CC=CC=C1)[N+]#N | InChI=1S/C6H5N2.ClH/c7-8-6-4-2-1-3-5-6;/h1-5H;1H/q+1;/p-1
